US06822097B1
Step (b) Preparation of 2-[2-(2-ethyl-4-pyridyl)-1,3-thiazol-4-yl]acetic acid
A mixture of methyl 2-[2-(2-ethyl-4-pyridyl)-1,3-thiazol-4-yl]acetate (Step a, 0.5 g, 1.9 mmol) and LiOH (2 N, 5.0 mL) in THF (5 mL) and MeOH (2 mL) was stirred at RT for 7 h. HCl (aq. 1 N) was added to adjust the reaction mixture to pH ˜2. The solution was evaporated and the resulting residue was partitioned between EtOAc (20 mL) and H2O (20 mL). The layers were separated and the aqueous layer was extracted again with EtOAc (2×20 mL). The organic layers were combined, dried (Na2SO4), and concentrated to afford a solid, which was suspended in CH2Cl2 and filtered to give the compound as a white solid. MS m/z: 249 (M+1). Calc'd for C12H12N2O2S. 248.06.

reactant | methyl 2-[2-(2-ethyl-4-pyridyl)-1,3-thiazol-4-yl]acetate | C(C)C1=NC=CC(=C1)C=1SC=C(N1)CC(=O)OC | C13H14N2O2S
reactant | LiOH | 2 N, 5.0 mL | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-[2-(2-ethyl-4-pyridyl)-1,3-thiazol-4-yl]acetic acid | C(C)C1=NC=CC(=C1)C=1SC=C(N1)CC(=O)O | C12H12N2O2S
